US06903215B2
Synthesis of 1,1,1-trifluoro-2-(1H-indol-2-ylmethyl)-4-methyl-4-pyridin-2-ylpentan-2-ol
To a solution of 42.4 mg (0.324 mmol, 1.5 eq.) of 2-methylindole in 2 mL of THF, 389 μL (0.972 mmol, 4.5 eq.) of n-butyl lithium (2.5 M solution in hexanes) and 648 μL (0.648 mmol, 3.0 eq.) of potassium tert-butoxide (1.0 M solution in THF) were added dropwise at −75° C. The resulting mixture was allowed to warm to −20° C. over 30 minutes. The reaction mixture was cooled to −75° C. and a solution of 50 mg (0.216 mmol) of 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-one in 1 mL of THF was added at this temperature. The resulting mixture was stirred at this temperature for 30 minutes and then quenched with saturated NH4Cl solution. The product was extracted into ether and the ethereal layer was washed with water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to give 22 mg (28%) of the title compound as a white foam.

reactant | 2-methylindole | 0.324 mmol, 42.4 mg, 1.5 eq. | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | n-butyl lithium | 0.972 mmol, 2.5 M, 389 μL, 4.5 eq. | C(CCC)[Li]
reactant | potassium tert-butoxide | 0.648 mmol, 1.0 M, 648 μL, 3.0 eq. | CC(C)([O-])C.[K+]
reactant | 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-one | 0.216 mmol, 50 mg | FC(C(CC(C)(C1=NC=CC=C1)C)=O)(F)F | C11H12F3NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-2-(1H-indol-2-ylmethyl)-4-methyl-4-pyridin-2-ylpentan-2-ol | 22 mg, 28% | FC(C(CC(C)(C1=NC=CC=C1)C)(O)CC=1NC2=CC=CC=C2C1)(F)F | C20H21F3N2O
